US07148222B2
2-Chloro-6-trifluoromethylnicotinic acid (10.0 g, 44.3 mmol) was suspended in thionyl chloride (85 ml) and heated under reflux for 2 h. The mixture was allowed to cool to ambient temperature, the solvent was removed in vacuo, toluene (50 ml) was added and the solution concentrated to afford a brown residue. This residue was cooled to −10° C. before ethyl diazoacetate (12.7 g, 110 mmol) was added dropwise over 30 min (maintaining the internal temperature below −5° C.). On complete addition the mixture was allowed to stir at 0° C. for 1 h then heated at 55° C. for 18 h. The mixture was allowed to cool to ambient temperature then evaporated. The residue was purified by dry flash chromatography on silica eluting with isohexane on a gradient of ethyl acetate (10–30%). Collecting the appropriate fractions gave 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-2-diazo-3-oxo-propionic acid ethyl ester (13.7 g, 96%) as a yellow oil: δH (400 MHz, CDCl3) 1.17 (3H, t, J7), 4.15 (2H, q, J7), 7.68 (1H, d, J8), 7.78 (1H, d, J8), CHN2 absent.

reactant | 2-Chloro-6-trifluoromethylnicotinic acid | 44.3 mmol, 10.0 g | ClC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C7H3ClF3NO2
reactant | ethyl diazoacetate | 110 mmol, 12.7 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | thionyl chloride | 85 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-2-diazo-3-oxo-propionic acid ethyl ester | 13.7 g, 96% | C(C)OC(C(C(=O)C=1C(=NC(=CC1)C(F)(F)F)Cl)=[N+]=[N-])=O | C11H7ClF3N3O3
